US04971982
6.95 g of 2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran were dissolved in 100 ml of ethanol and shaken at room temperature with 10% palladium-on-charcoal under a hydrogen atmosphere. After the required volume of hydrogen had been taken up the catalyst was filtered off, the filtrate was evaporated and the residue was recrystallized from n-hexane to give 5.07 g of 3,4-dihydro-2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran of melting point 99-101° C.

reactant | 2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran | 6.95 g | CC1(OC2=C(C(=C1)C1=NC=CC=C1)C=CC=C2)C | C16H15NO
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 3,4-dihydro-2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran | 5.07 g | CC1(OC2=C(C(C1)C1=NC=CC=C1)C=CC=C2)C | C16H17NO
